US06150373
A solution containing 0.93 g (1.8 mmol) of 5-(2-bromoanilino)methyl-4-[4-(tetrahydropyran-2-yloxymethyl)phenyl]amino-2-methylthiopyrimidine and 0.5 ml (3.61 mmol) of triethylamine in 5 ml of anhydrous tetrahydrofuran was added dropwise to 1.9 ml (3.61 mmol) of a 20% solution of phosgene in toluene dissolved in 5 ml of tetrahydrofuran at 0° C. under an atmosphere of nitrogen. The reaction was stirred at 0° C. for a further 60 minutes then evaporated. The residue was partitioned between ethyl acetate (10 ml) and 2M hydrochloric acid (10 ml), the ethyl acetate layer was separated then washed with saturated aqueous sodium bicarbonate (10 ml), dried over magnesium sulfate, filtered and evaporated to give 0.945 g (97%) of 3-(2-bromophenyl)-3,4-dihydro-1-[4-(tetrahydropyran-2-yloxymethyl)phenyl]-7-methylthio-pyrimido[4,5-d]pyrimidin-2(1H)-one as a yellow gum. [Mass spectrum (ESI) MH+ =541].

reactant | 5-(2-bromoanilino)methyl-4-[4-(tetrahydropyran-2-yloxymethyl)phenyl]amino-2-methylthiopyrimidine | 1.8 mmol, 0.93 g | BrC1=C(NCC=2C(=NC(=NC2)SC)NC2=CC=C(C=C2)COC2OCCCC2)C=CC=C1 | C24H27BrN4O2S
reactant | triethylamine | 3.61 mmol, 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(2-bromophenyl)-3,4-dihydro-1-[4-(tetrahydropyran-2-yloxymethyl)phenyl]-7-methylthio-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.945 g, 97% | BrC1=C(C=CC=C1)N1C(N(C2=NC(=NC=C2C1)SC)C1=CC=C(C=C1)COC1OCCCC1)=O | C25H25BrN4O3S
